US08252935B2
d) 2-{5-[1-(4-Methoxy-benzyl)-6-trifluoromethyl-piperidin-2-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid
To 2-{5-[1-(4-Methoxy-benzyl)-6-trifluoromethyl-piperidin-2-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester, compound 7c (21.3 mg, 0.034 mmol) in EtOH (2 mL) was added 2M KOH (67 μl, 0.134 mmol). The reaction was heated to 78° C. for 5 hours, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, followed by salt exchange with aqueous 1N HCl and subsequent lyophilization, gave the title compound as a white solid. (13 mg, 61%) 1H NMR (300 MHz, MeOD) δ ppm 0.89-0.99 (m, 6 H) 1.53 (dd, J=13.38, 6.59 Hz, 1 H) 1.68 (ddd, J=13.75, 7.16, 6.97 Hz, 1 H) 1.74-1.89 (m, 4 H) 1.92-2.07 (m, 3 H) 3.50-3.58 (m, 1H) 3.68 (s, 3 H) 3.67-3.82 (m, 4 H) 6.70 (d, J=8.67 Hz, 2 H) 7.01 (d, J=7.16 Hz, 2 H) 7.41-7.54 (m, 3 H) 7.68-7.77 (m, 4 H) Calcd for C33H35F6NO3 (M+H) 607.63, Found 608.4.

reactant | 2-{5-[1-(4-Methoxy-benzyl)-6-trifluoromethyl-piperidin-2-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1N(C(CCC1)C(F)(F)F)CC1=CC=C(C=C1)OC)C1=CC=C(C=C1)C(F)(F)F)=O | C35H39F6NO3
reactant | KOH | 0.134 mmol, 2M, 67 μl | [OH-].[K+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-{5-[1-(4-Methoxy-benzyl)-6-trifluoromethyl-piperidin-2-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid | COC1=CC=C(CN2C(CCCC2C(F)(F)F)C=2C=C(C=C(C2)C2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)CC(C)C)C=C1 | C33H35F6NO3
